US07304081B2
Step 2. 1-{4-[3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}cyclopropanecarbonitrile
To a solution of 1-(4-bromophenyl)cyclopropanecarbonitrile (600 mg, 0.003 mol), 3-(trifluoromethyl)-1H-pyrazole (441 mg, 0.00324 mol) in toluene (2 mL, 0.02 mol) and N,N-dimethylformamide (3 mL, 0.04 mol) were added (1S,2S)-N,N′-dimethylcyclohexane-1,2-diamine (77 mg, 0.00054 mol), copper(I) iodide (51 mg, 0.00027 mol), and potassium carbonate (784 mg, 0.00567 mol). The mixture was microwave irradiated at 200° C. for 60 minutes and then filtered. The filtrate was dilluted with methanol, and the product from the filtrate was isolated and purified using prep-HPLC. Additional product could be obtained from the precipitate by dissolving the precipitate in EtOAc, washing with satd. NaHCO3, brine, drying with MgSO4, and concentrating for purification.

reactant | 1-(4-bromophenyl)cyclopropanecarbonitrile | 0.003 mol, 600 mg | BrC1=CC=C(C=C1)C1(CC1)C#N | C10H8BrN
reactant | 3-(trifluoromethyl)-1H-pyrazole | 0.00324 mol, 441 mg | FC(C1=NNC=C1)(F)F | C4H3F3N2
reactant | toluene | 0.02 mol, 2 mL | C1(=CC=CC=C1)C | C7H8
reactant | N,N-dimethylformamide | 0.04 mol, 3 mL | CN(C=O)C | C3H7NO
reactant | (1S,2S)-N,N′-dimethylcyclohexane-1,2-diamine | 0.00054 mol, 77 mg | CN[C@@H]1[C@H](CCCC1)NC | C8H18N2
reactant | potassium carbonate | 0.00567 mol, 784 mg | C([O-])([O-])=O.[K+].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper(I) iodide | 0.00027 mol, 51 mg | [Cu]I
product | 1-{4-[3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}cyclopropanecarbonitrile | FC(C1=NN(C=C1)C1=CC=C(C=C1)C1(CC1)C#N)(F)F | C14H10F3N3
